US07652004B2
13-Cyclohexyl-N-(dimethylsulfamoyl)-3-methoxy-6-(2-(4-morpholinylcarbonyl)-3-thienyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide
In a 2 dram vial, dissolve 13-Cyclohexyl-3-methoxy-6-(2-(4-morpholinylcarbonyl)-3-thienyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (38 mg, 0.065 mmol) in 1 mL of anhydrous THF, add CDI (19.03 mg, 0.117 mmol) to the reaction. The reaction was capped under a nitrogen atmosphere and stirred at room temperature for approximately 1 hour. The reaction was heated capped under nitrogen at 65 C for 1 hour, then cooled to room temperature and N,N-Dimethylsulfamide (44.3 mg, 0.357 mmol) then DBU (13.8 μL, 0.092 mmol) added to the reaction. The reaction was capped and heated under nitrogen over night at 65° C. Analysis of an aliquot by LC-MS indicated that the reaction was incomplete. To the reaction was added more dimethylsulfamide (19 mg, 0.153 mmol) and DBU (13.8 uL, 0.092 mmol). The reaction was capped under a nitrogen atmosphere and heated at 69 C for 3.25 hrs. Analysis of the reaction by LC-MS indicated that the reaction was complete. The reaction was partitioned between dichloromethane and 1N aqueous hydrochloric acid. The aqueous layer was extracted with dichloromethane. The organic layers were combined and washed sequentially with 1N aqueous hydrochloric acid then 0.1M sodium dihydrogen phosphate (NaH2PO4) and dried over sodium sulfate. Volatiles were removed in vacuuo to give a yellow oil/film. The crude title compound was dried in vacuuo overnight at room temperature. Weight of crude product is 43 mg as a yellow/brown solid. Dissolve in a mixture of acetonitrile and DMF and purify by reverse phase HPLC under the following conditions: Shimadzu Preparative HPLC running Discovery VP software, % A=10% acetonitrile, 90% water, 0.1% TFA % B=90% acetonitrile, 10% water, 0.1% TFA; Initial % B=50; Final % B=100; Gradient=15 min; Runtime=25 min; Flow rate=25 ml/min; Wavelength=220 nm; Column=Waters Sunfire 19 mm×100 mm. Product collection time=9.72 min. to 10.49 min. Volatiles were removed in vacuuo from the product fraction to yield 14.2 mg of the title compound as a yellow solid. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.17-1.30 (m, 1H) 1.32-1.50 (m, 2H) 1.55 (d, J=11.29 Hz, 1H) 1.78 (d, J=10.99 Hz, 2H) 1.90-2.16 (m, 4 H) 2.42-2.58 (m, 1H) 2.60-2.86 (m, 4H) 2.85-2.94 (m, 2H) 2.95-3.04 (m, 2H) 3.06 (s, 6H) 3.10-3.30 (m, 1H) 3.91 (s, 3H) 4.56 (d, J=14.65 Hz, 1H) 5.09 (d, J=14.65 Hz, 1H) 6.87 (s, 1H) 6.93 (d, J=2.75 Hz, 1H) 7.05 (dd, J=8.70, 2.59 Hz, 1 H) 7.08 (d, J=4.88 Hz, 1H) 7.45 (d, J=4.88 Hz, 1H) 7.47-7.54 (m, 2H) 7.83 (s, 1H) 7.91 (d, J=8.55 Hz, 1H) 9.59 (s, 1H). LC-MS: Shimadzu Analytical HPLC using Discovery VP software: % A=5% acetonitrile, 95% water, 10 mmol Ammonium Acetate % B=95% acetonitrile, 5% water, 10 mmol Ammonium Acetate; Initial % B=0; Final % B=100; Gradient=3 min; Runtime=4 min; Flow rate=5 ml/min; Wavelength=220 nm; Column=Waters Xterra, 3 mm×50 mm, S7. Retention Time=2.05 min min, MS m/z 689 (MH+), m/z 687 (M−H)−.

reactant | 13-Cyclohexyl-3-methoxy-6-(2-(4-morpholinylcarbonyl)-3-thienyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.065 mmol, 38 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(SC=C2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)O | C34H34N2O5S
reactant | CDI | 0.117 mmol, 19.03 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,N-Dimethylsulfamide | 0.357 mmol, 44.3 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 0.092 mmol, 13.8 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | dimethylsulfamide | 0.153 mmol, 19 mg | CNS(=O)(=O)NC | C2H8N2O2S
reactant | DBU | 0.092 mmol, 13.8 uL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 13-Cyclohexyl-N-(dimethylsulfamoyl)-3-methoxy-6-(2-(4-morpholinylcarbonyl)-3-thienyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 14.2 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(SC=C2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)NS(N(C)C)(=O)=O | C36H40N4O6S2
